US06204221B1
3-(3-Fluoro-5-chloro-2-pyridyl)-4-amino-5difluoromethoxy-1-methyl-[1H]-pyrazole
4.2 g of 3-(3-fluoro-5-chloro-2-pyridyl)-4-nitro-5-difluoromethoxy-1-methyl-[1H]-pyrazole (Example H47) are initially introduced into the reaction vessel together with 40 ml of tetrahydrofuran, and 5.8 g of Raney nickel in ethanol are added. Hydrogenation is carried out under normal pressure and at a temperature of 30-35° C. After uptake of 728 ml of hydrogen, the hydrogenation is interrupted and the reaction mixture is filtered over Hyflo. After removal of the solvent in vacuo, 3.15 g of the desired title compound are obtained as a brown solid of melting point 92-94° C.

reactant | 3-(3-fluoro-5-chloro-2-pyridyl)-4-nitro-5-difluoromethoxy-1-methyl-[1H]-pyrazole | 4.2 g | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1[N+](=O)[O-])OC(F)F)C | C10H6ClF3N4O3
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | hydrogen | 728 ml | [H][H] | H2
catalyst | Raney nickel | 5.8 g | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 3-(3-Fluoro-5-chloro-2-pyridyl)-4-amino-5difluoromethoxy-1-methyl-[1H]-pyrazole | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1N)OC(F)F)C | C10H8ClF3N4O
